US07087601B2
4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl trifluoromethanesulfonate (480 mg, 1.3 mmol), potassium acetate (380 mg, 3.8 mmol), bis(diphenylphosphino)ferrocene palladium dichloride (100 mg, 0.13 mmol), and bis(pinacolato)diboron (390 mg, 1.5 mmol) were combined in a 2-neck flask. The flask was evacuated and filled with argon and dioxane (10 mL) was added. The suspension was deoxygenated with a stream of argon for 10 min. The reaction mixture was stirred under argon at 80° C. for 24 h. Crude mixture was adsorbed onto silica gel and purified by automated flash chromatography using and EtOAc/hexanes gradient to afford 2-[3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-benzoxazole as an orange solid: 1H NMR (CDCl3, 300 MHz) δ 7.83–7.83 (m, 3H), 7.74 (s, 1H), 7.62–7.55 (m, 1H), 7.39–7.36 (m, 2H), 3.98 (s, 3H), 1.39 (s, 12H).

reactant | 4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl trifluoromethanesulfonate | 1.3 mmol, 480 mg | FC(S(=O)(=O)OC1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)OC)(F)F | C15H10F3NO5S
reactant | potassium acetate | 3.8 mmol, 380 mg | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 1.5 mmol, 390 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
catalyst | bis(diphenylphosphino)ferrocene palladium dichloride | 0.13 mmol, 100 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 2-[3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-benzoxazole | COC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)C=1OC2=C(N1)C=CC=C2 | C20H22BNO4
